US05990113
Steam was generated by heating a bath filled with water at 50° C. in a plastic sheet housing isolated from outer air. The anhydrous crystal of 5-Methyl-2-(1-piperazinyl)benzenesulfonic acid (4886.16 g) prepared by the method described in the Japanese Patent Unexamined Publication (KOKAI) No.(Hei)3-7263/1991 was spread in a stainless flat container and left in the above plastic sheet housing. The crystals were occasionally dispersed and sweat formed on inner wall of the housing and the stainless container was wiped. After 22.5 hours, weight increase ceased and 5217.65 g in total of 5-methyl-2-(1-piperazinyl)benzenesulfonic acid monohydrate was obtained as white crystals. The result of the elemental analysis verified that the crystals were the monohydrate crystals.

reactant | 5-Methyl-2-(1-piperazinyl)benzenesulfonic acid | 4886.16 g | CC=1C=CC(=C(C1)S(=O)(=O)O)N1CCNCC1 | C11H16N2O3S
solvent | water | O | H2O
product | 5-methyl-2-(1-piperazinyl)benzenesulfonic acid monohydrate | O.CC=1C=CC(=C(C1)S(=O)(=O)O)N1CCNCC1 | InChI=1S/C11H16N2O3S.H2O/c1-9-2-3-10(11(8-9)17(14,15)16)13-6-4-12-5-7-13;/h2-3,8,12H,4-7H2,1H3,(H,14,15,16);1H2
